US04950678
To a mixture of sodium acetate (14.0 g) in 225 ml of acetic acid heated to refluxing is first added 2,6-dichloro-4-nitroaniline (6.40 g, 30.8 mmol), followed by 1,3-dimethoxyoctahydroisobenzofuran (5.73 g, 30.8 mmol). The reaction mixture is heated under reflux for 16 hours, after which the acetic acid is stripped off by rotoevaporation and the residue is poured into ethyl acetate and water. The aqueous layer is extracted with ethyl acetate, and the combined organic layers are washed with water and with brine and dried. The residue is purified by column chromatography to give 2-(2,6-dichloro-4-nitrophenyl)-4,5,6,7-tetrahydroisoindole, which is then reduced with stannous chloride according to Example 9 procedures to give 3,5-dichloro-4-(4,5,6,7-tetrahydroisoindol-2-yl)aniline.

reactant | sodium acetate | 14.0 g | C(C)(=O)[O-].[Na+]
reactant | 2,6-dichloro-4-nitroaniline | 30.8 mmol, 6.40 g | ClC1=C(N)C(=CC(=C1)[N+](=O)[O-])Cl | C6H4Cl2N2O2
reactant | 1,3-dimethoxyoctahydroisobenzofuran | 30.8 mmol, 5.73 g | COC1OC(C2CCCCC12)OC | C10H18O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 225 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(2,6-dichloro-4-nitrophenyl)-4,5,6,7-tetrahydroisoindole | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)N1C=C2CCCCC2=C1 | C14H12Cl2N2O2
